* ProCo Rat - Clipping Stage Only

* INPUTS
Vplus Vp 0 DC 4.5
Vin   Vi 0 PULSE(0 1 1m 1u 1u 10m 20m 0) ; input

* INPUT NETWORK
C1    Vi    n1 22n
R2    n1    Vp 1M
R3    n1 nplus 1k
C2 nplus     0 1n

* GROUND NETWORK
R4 nmin n2 47
C5   n2  0 2.2u
R5 nmin n3 560
C6   n3  0 4.7u

* Op-amp
* [out, 0, pos, neg, gain]
Eop nop 0 nplus nmin 1e6

* FEEDBACK NETWORK
Rd nmin nop 50k ; variable
C4 nmin nop 100p

* OUTPUT NETWORK
C7  nop   n4 4.7u
R6   n4 nout 1k
XP nout    0 ; root output:V custom:1,prefix=wdf_lib::diode_pair::,jai_prefix=,params=Diode_Pair_Params,vars=Diode_Pair_Vars,updater=update_vars,compute=root_compute

.tran 0 50m 0 10u
.meta:include:<wdf_lib_diode_pair.h>
.meta:load:"../../lib/wdf_lib_diode_pair.jai"
.backanno
.end
